US07361654B2
3-[1-(4-bromophenyl)-1-methylethyl]-1-[(15-methyl-8-nitrotetracyclo[6.6.2.02,7.09,14]hexadeca-2,4,6,9,11,13-hexaen-15-yl)carbonyl]-1H-1,2,4-triazol-5-amine
To a stirred solution of 15-methyl-8-nitrotetracyclo[6.6.2.02,7.09,14]hexadeca-2,4,6,9,11,13-hexaene-15-carboxylic acid (31 mg, 0.10 mmol, prepared according to WO04009017), 1-hydroxybenzotriazole (20 mg, 0.15 mmol), and N-ethyl-N,N-diisopropylamine (0.15 mL) in anhydrous acetonitrile (1.5 mL) was added EDCI (39 mg, 0.2 mmol) at RT under argon. After the mixture was stirred at RT for 5 min, 5-[1-(4-bromophenyl)-1-methylethyl]-1H-1,2,4-triazol-3-amine (28 mg, 0.1 mmol) was added. The reaction mixture was stirred at RT for 2 h and at 80° C. for 1 h. After the solvents were removed, the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution. The aqueous solution was extracted with methylene chloride. The combined organic solutions were dried (Na2SO4), concentrated and purified by silica gel chromatography to give 53 mg (93% yield) of the title compound as a white solid which was used as such for the subsequent step without further purification.

reactant | 15-methyl-8-nitrotetracyclo[6.6.2.02,7.09,14]hexadeca-2,4,6,9,11,13-hexaene-15-carboxylic acid | 0.10 mmol, 31 mg | CC1(C2C3=CC=CC=C3C(C3=CC=CC=C32)(C1)[N+](=O)[O-])C(=O)O | C18H15NO4
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl-N,N-diisopropylamine | 0.15 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.2 mmol, 39 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-[1-(4-bromophenyl)-1-methylethyl]-1H-1,2,4-triazol-3-amine | 0.1 mmol, 28 mg | BrC1=CC=C(C=C1)C(C)(C)C1=NC(=NN1)N | C11H13BrN4
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 3-[1-(4-bromophenyl)-1-methylethyl]-1-[(15-methyl-8-nitrotetracyclo[6.6.2.02,7.09,14]hexadeca-2,4,6,9,11,13-hexaen-15-yl)carbonyl]-1H-1,2,4-triazol-5-amine | 53 mg, 93% yield | BrC1=CC=C(C=C1)C(C)(C)C1=NN(C(=N1)N)C(=O)C1(C2C3=CC=CC=C3C(C3=CC=CC=C32)(C1)[N+](=O)[O-])C | C29H26BrN5O3
